US07495110B2
Stage 1: N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-thioxo-2,3-dihydro-1H-benzimidazole-5-carboxamide
A mixture of 3-amino-N,N-diisobutyl-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzamide (1.52 g, 1 eq) and thiocarbonyldiimidazole (0.74 g, 1.2 eq) in THF (30 ml) is stirred at approximately 20° C. for 15 hours. After concentration under reduced pressure at 40° C., the residue obtained is taken up in dichloromethane (80 ml) and water (30 ml). After decanting and extracting, the combined organic phases are washed with salt water, dried over Na2SO4 then evaporated under reduced pressure at 40° C. Purification of the residue by flash chromatography on silica gel (eluent: 100% dichloromethane to dichloromethane/methanol 8:2) produces the expected compound in the form of a light beige foam (1.2 g; 72% yield).

reactant | 3-amino-N,N-diisobutyl-4-({3-[methyl(2-pyridin-2-ylethyl)amino]propyl}amino)benzamide | 1.52 g, 1 eq | NC=1C=C(C(=O)N(CC(C)C)CC(C)C)C=CC1NCCCN(CCC1=NC=CC=C1)C | C26H41N5O
reactant | thiocarbonyldiimidazole | 0.74 g, 1.2 eq | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | water | 30 ml | O | H2O
product | N,N-diisobutyl-1-{3-[methyl(2-pyridin-2-ylethyl)amino]propyl}-2-thioxo-2,3-dihydro-1H-benzimidazole-5-carboxamide | 72% yield | C(C(C)C)N(C(=O)C1=CC2=C(N(C(N2)=S)CCCN(CCC2=NC=CC=C2)C)C=C1)CC(C)C | C27H39N5OS
